US07521461B2
a) (3-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid
3-Hydroxyphenylacetic acid (760 mg, (5 mmol) was dissolved in ethanol (99.5%, 20 ml). Potassium hydroxide (560 mg, 10 mmol) was added. The mixture was stirred for 30 minutes. 2-Bromomethylbenzoic acid methyl ester (1.144 g, 5 mmol) was then dropped in. The resulting mixture was heated to reflux for 2 hours and then evaporated in vacuum to dry. Water and ethyl acetate were added into the residue and the phases were separated. The water phase was acidified with 10% hydrochloric acid, pH˜5, and then extracted with ethyl acetate. The organic phase was dried (magnesium sulphate) and evaporated in vacuum to dry. Chromatography of the residue on a column (ISOLUTE® SI, 5 g/25 ml) using DCM, MeOH/DCM (1:99) as eluant gave 213 mg, the desired product, yield 14%.

reactant | 3-Hydroxyphenylacetic acid | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | Potassium hydroxide | 10 mmol, 560 mg | [OH-].[K+]
reactant | 2-Bromomethylbenzoic acid methyl ester | 5 mmol, 1.144 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid | yield 14% | COC(=O)C1=C(COC=2C=C(C=CC2)CC(=O)O)C=CC=C1 | C17H16O5
